US04215075
To 50 mg of 3,3-dimethyl-1-(methylsulfinyl)-1-methylthio-2-butanone oxime in 5 ml of methylene chloride is added 0.5 ml of methyl isocyanate. After standing at room temperature 18 hrs., the solvent was removed to give 53 mg of impure 3,3-dimethyl-1-(methylsulfinyl)-1-methylthio-2-butanone O-[methylaminocarbonyl]oxime. The ir and pmr were identical to that of an authentic sample synthesized independently.

reactant | 3,3-dimethyl-1-(methylsulfinyl)-1-methylthio-2-butanone oxime | 50 mg | CC(C(C(SC)S(=O)C)=NO)(C)C | C8H17NO2S2
reactant | methyl isocyanate | 0.5 ml | CN=C=O | C2H3NO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 3,3-dimethyl-1-(methylsulfinyl)-1-methylthio-2-butanone O-[methylaminocarbonyl]oxime | 53 mg | CNC(=O)ON=C(C(SC)S(=O)C)C(C)(C)C | C10H20N2O3S2
